Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
My head is still a bit cloudy...
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with no formal psychiatric history, with history of 
polysubstance abuse, presented as transfer from OSH.  Events at 
OSH are well-documented, but briefly, patient presented with c/o 
SI, then stabbed himself with a pen, was restrained, sustained a 
left humerus fracture, had respiratory depression from sedating 
meds.  Currently arm is splinted, he has been evaluated by ortho 
and trauma surgery, and no intervention is necessary for pen 
fragments left in the posterior neck.  
This morning, patient recalls that for approximately the past 
year (since ___, in context of daily marijuana use and 
one-time use of salvia, he has been experiencing perceptual 
changes inside [him]self.  He reports that he has been reading 
symbols as being related to him, for example interpreting what 
people say, actions they take, signs, colors, the TV, etc, as 
having meaning for himself.  He believes that there is a higher 
power that may know what he is thinking, and that is sending 
messages to him through the symbols related above.  He will 
often develop a theory about the symbols meaning, and then 
feel menaced, or feel the fear of death.  He has had fears 
that people are talking about [him] behind [his] back, that 
his friends are demonic, etc.  He denies somatic concerns.  He 
denies AH, VH.  He has noticed that his thoughts come faster.  

Patient denies changes in mood, denies depressed or elevated or 
irritable periods.  He has had decreased sleep, but does sleep 
nightly, and feels tired.  He describes energy, appetite, and 
concentration as relatively normal.  He denies impulsive or 
unusual actions, denies spending sprees.  He reports developing 
suicidal ideation over the past approximately three months, on 
and off.  He had been contemplating methods for suicide when he 
called his friend on the night of presentation, and says, I 
guess I was still uncertain about it, because I called him.  He 
denies having taken steps to make a plan or execute a plan for 
suicide.  He denies SI now, says, not at all, theres something 
telling me to keep going.  He denies HI.  
Patient reports daily marijuana use since approximately ___, 
he smokes once a day.  He also has used oxycontin off and on 
since ___, but reports he had been abstinent from this since 
___, until using one pill again on the night of admission. 
 He smoked salvia about ___ years ago, and reports he had 
hallucinogenic experiences.  He denies other illicit drug use, 
denies alcohol use.  

 
Past Medical History:
Past Psychiatric History:  
Diagnoses: None.  Denies prior affective illness or psychotic 
episodes.
Hospitalizations:  None
Suicide attempts: None previously
Self-injury:  None
Medication Trials:None
No current providers.

Medical History:
Left arm fracture sustained in recent restraint, now splinted
Has foreign body in neck, no surgical intervention deemed 
necessary
No chronic illness.  No past surgeries.

 
Social History:
___
Family History:
Father with depression.  Paternal grandfather with alcoholism.
 
Physical Exam:
PE: notable for left arm in sling secondary to humerus fracture.
MENTAL STATUS EXAM:
APPEARANCE & FACIAL EXPRESSION:  Young Caucasian male, sitting 
up
on gurney.  Splint on L arm, wrapped with guaze around his neck
for support.  Visible abrasions on R aspect of neck.  Hair 
neatly groomed.  
BEHAVIOR: No abnormal behaviors
ATTITUDE: Cooperative
SPEECH: Regular rate and rhythm, fluent speech
MOOD: "Pretty terrible."
AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.): Slightly
dysphoric, anxious
THOUGHT FORM: Generally linear
THOUGHT CONTENT: Evidence of delusional thought, ideas of
reference, some religious preoccupation
ABNORMAL PERCEPTIONS: Denies; no evidence of AH or VH
NEUROVEGETATIVE SYMPTOMS: Denies
SUICIDALITY/HOMICIDALITY: Please see HPI; denies HI
INSIGHT AND JUDGMENT: Poor/poor

COGNITIVE ASSESSMENT: 
SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT): Alert
ORIENTATION: to person, place and time
ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.): Able to do WORLD
backwards
MEMORY: ___ registration; ___ recall but with some
mistunderstanding of instructions
CALCULATIONS:  $1.75 = "750... wait, no, 7"
FUND OF KNOWLEDGE: Average
PROVERB INTERPRETATION: Book/cover = don't think you know 
someone
SIMILARITIES/ANALOGIES: N/A

 
Pertinent Results:
___ 07:30PM   GLUCOSE-95 UREA N-9 CREAT-0.8 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-31 ANION GAP-14
___ 07:30PM   ALT(SGPT)-43* AST(SGOT)-95* ALK PHOS-50 TOT 
BILI-0.8
___ 07:30PM   CALCIUM-9.6 PHOSPHATE-3.1 MAGNESIUM-2.1
___ 07:30PM   WBC-8.2 RBC-4.55* HGB-14.8 HCT-40.5 MCV-89 
MCH-32.6* MCHC-36.6* RDW-12.6
___ 07:30PM   PLT COUNT-270
___ 10:21AM   K+-3.8
___ 07:10AM BLOOD ALT-36 AST-36 AlkPhos-38* TotBili-0.9
___ 07:10AM BLOOD Cholest-127
___ 07:10AM BLOOD Triglyc-126 HDL-32 CHOL/HD-4.0 LDLcalc-70
___ 06:55AM BLOOD Lithium-1.2
.
___: HUMERUS (AP & LAT) LEFT
LEFT HUMERUS TWO VIEWS: There is a spiral fracture involving the 
distal 
metaphysis of the humerus. The distal fragment is distracted 
about 1 cm 
inferiorly. It is also displaced laterally by about half shaft 
width. 
.
___: HUMERUS (AP & LAT) LEFT
LEFT HUMERUS, THREE VIEWS: Again seen are the comminuted 
fractures of the 
mid/distal left humeral shaft. There is less distraction of the 
fracture 
fragments with now only one shaft width lateral displacement of 
the distal fragment. The 6.9 cm butterfly fragment is unchanged. 
There is no 
appreciable callus formation or bridging. 
.  
IMPRESSION: Comminuted left humeral fracture with improved 
alignment; 
however, no significant callus or osseous bridging. 

 
Brief Hospital Course:
1. Psychiatric-Patient was admitted to the unit without 
incident. He initially presented with more insight into his 
disordered thinking. He felt that it was likely due to the 
recreational drugs he was using. Midway through his hospital 
course, he experienced a panic attack; worrying about having a 
similar attack along with his elevated bed increased his overall 
anxiety level, and led to significant difficulty sleeping. At 
this time he began to exhibit symptoms concerning for mania 
including agitation, pressured speech, grandiose statements, and 
increased paranoid ideation. The patient reported that the staff 
were conspiring to "test him" with a variety of methods: 8 hour 
changes in nursing shifts, delays/confusion in medication 
delivery, and interruptions during interviews.  He frequently 
became very agitated during interviews, which often preceded 
paranoid accusations; similarly, he became agitated during a 
phone conversation with his mother and later during a family 
meeting, accusing his mother of siding with the hospital staff 
to keep him in the hospital indefinitely.  

Above written by Dr. ___ M.D.; remainder of 
hospital course below written by ___ M.D.
.
On ___ he became acutely anxious about not being discharged 
from the hospital, and made some superficial stab injuries to 
his neck with the use of a pen; which did not require any suture 
repair.  

Psychopharmacology-Risperdal was initiated and titrated up to 6 
mg PO qHS without side effects in order to target his sx's of 
psychosis. Patient was educated on risk and benefits including 
weight gain and a fasting lipid panel was check for a baseline. 
Patient reported increasingly organized thoughts and the ability 
to reality test regarding his ideas of reference. He denied any 
further thoughts of suicidality.  Based on potential mood 
symptoms, the team discussed with the patient the possibility of 
adding a mood stabilizer to his treatment; and eventually agreed 
to being started on lithium; and was titrated up to 600mg PO 
bid; and was found to have a level of 1.2 on ___.  With the 
therapeutic level of lithium, the mood related sx's above along 
with his pressured speech, grandiosity, irritability, and 
agitation resolved.  Upon discharge, his ibuprofen was 
discontinued as well, given his prn vicodin was managing his 
pain, and to avoid potential interactions between ibuprofen and 
lithium.  Mr. ___ was agreeable to outpatient psychiatric 
followup; continuation of these meds, and also to the idea of 
transitioning to a partial hospital program. 

Behavioral/Mileu-Patient was cooperative and in good behavioral 
control on the unit. He attended groups and was motivated.

2. Medical- Patient was followed by orthopedic surgery service. 
Physical therapy was consulted. He received Vicodin PRN with 
good pain control, which was successfully tapered. His left 
humerus was re X-rayed and orthopedics followed up the result, 
which showed improved alignment of the fragments, but needed 
another film in a few weeks to observe if further healing 
occurs. He should follow up with Dr. ___ as an outpatient 
in 2 weeks.  He should continue to utilize his sling/brace as 
instructed until then, and continue to sleep upright in bed, and 
be non-weight bearing for his left arm.

3. Legal- Patient was admitted to Deac 4 on a ___ from 
the ED; and he signed in on a conditional voluntary basis upon 
arrival. 

4. Dispo-Patient was discharged to his mother's home; with 
aftercare at ___, and outpatient psychiatric providers. 
 
Medications on Admission:
none
 
Discharge Medications:
1. Lithium Carbonate 600 mg Capsule Sig: One (1) Capsule PO 
twice a day.
Disp:*30 Capsule(s)* Refills:*0*
2. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for acute anxiety and insomnia.
Disp:*30 Tablet(s)* Refills:*0*
3. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
4. Risperdal 3 mg Tablet Sig: Two (2) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*0*
5. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
6. Calcium Carbonate 500 mg Tablet, Chewable Sig: Two (2) 
Tablet, Chewable PO DAILY (Daily).
Disp:*30 Tablet, Chewable(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I: Bipolar Disorder, Acute Mania with psychotic features.
AXIS II: Deferred
AXIS III:  fractured left humerus
AXIS IV: Unemployed, socially isolate.
AXIS V: 51

 
Discharge Condition:
Vitals: afebrile, vitals stable
MSE: Caucasian M, in hospital gown, and L arm in sling, speech 
not pressured mood:'better', Affect: euthymic, pleasant, 
related. TP: far less ruminative than past week.  TC: denies 
SI/HI, does not appear to be responding to internal stimuli.  
I/J: fair/fair.  Condition improved; pt. stable, appropriate for 
discharge. 

 
Discharge Instructions:
1. If you are having thoughts of wanting to hurt yourself or 
others, please call ___ or come to the Emergency Department 
immediately.
.
2. Please continue to take your medications as prescribed
.
3. Please keep all your appointments with your outpatient 
treaters as detailed below.

 
Followup Instructions:
___